US06664256B1
Preparation of 6-chloro-3-(4-methoxyphenyl)-4-phenylpyridazine
6-(4-Methoxyphenyl)-5-phenyl-2H-pyridazin-3-one [WO 9925697] (2.76 g, 9.60 mmol) and phosphorus oxychloride (2.8 mP) were stirred at 90° C. for 5 hours in benzene. The reaction mixture was processed in a similar manner as in Example 22, whereby the title compound was obtained as a pale yellow-brown oil (1.83 g, 64.3%)

reactant | 6-(4-Methoxyphenyl)-5-phenyl-2H-pyridazin-3-one | 9.60 mmol, 2.76 g | COC1=CC=C(C=C1)C=1C(=CC(NN1)=O)C1=CC=CC=C1 | C17H14N2O2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 6-chloro-3-(4-methoxyphenyl)-4-phenylpyridazine | ClC1=CC(=C(N=N1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C17H13ClN2O
